US06855710B2
a) 1-methyl-3-(1-hydroxy-1-phenyl-methylidene)-2-indolinone
4.15 g (41 mmol) of diisopropylamine are placed in 50 ml of THF, cooled to −70° C. and combined with a solution of 14.4 ml of (36 mmol) of n-butyl lithium solution (2.5 mol in toluene) and stirred for 10 minutes. Then a solution of 5.0 g (34 mmol) of 1-methyl-2-indolinone in 30 ml of THF is added dropwise and stirred for 45 minutes at −70° C. Then 5.8 g (0.041 mol) of benzoylchloride are added dropwise. The reaction solution is left to heat up slowly within 14 hours. It is then poured onto sodium chloride solution and extracted with ethyl acetate. The combined organic extracts are dried and concentrated by evaporation. The residue is chromatographed on silica gel (dichloromethane/methanol/ammonia=200:8:1).

reactant | diisopropylamine | 41 mmol, 4.15 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 36 mmol, 14.4 ml | C(CCC)[Li]
reactant | 1-methyl-2-indolinone | 34 mmol, 5.0 g | CN1C(CC2=CC=CC=C12)=O | C9H9NO
reactant | benzoylchloride | 0.041 mol, 5.8 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-methyl-3-(1-hydroxy-1-phenyl-methylidene)-2-indolinone | CN1C(C(C2=CC=CC=C12)=C(C1=CC=CC=C1)O)=O | C16H13NO2
